US07947684B2
B. (2-Chloro-3-methylpyridin-4-yl)carbamic acid tert-butyl ester
tert-Butyllithium (29 mL of 1.7M in pentane, 50 mmol) was added dropwise to a vigorously stirring solution of (2-chloropyridin-4-yl)carbamic acid tert-butyl ester (4.57 g, 20 mmol) in THF (150 mL) at −78° C. under nitrogen. The reaction mixture was kept at this temperature for 4 hours before adding a solution of methyl iodide (3.41 g, 24 mmol) in THF (20 mL). Warmed the reaction mixture to 0° C. over 2 hours, and quenched the reaction with saturated aqueous ammonium chloride solution (100 mL). Extracted into ethyl acetate, washed with brine, dried over magnesium sulfate, and concentrated to dryness. Flash column chromatography on silica gel gave the product as a white solid (2.93 g, 12 mmol). 1H NMR (CDCl3) δ 8.11 (d, 1H), 7.98 (d, 1H), 6.58 (br s, 1H), 2.30 (s, 3H), 1.52 (s, 9H). ESI MS (M+1)+: 243, 245 (Cl).

reactant | tert-Butyllithium | 50 mmol, 1.7M, 29 mL | C(C)(C)(C)[Li]
reactant | (2-chloropyridin-4-yl)carbamic acid tert-butyl ester | 20 mmol, 4.57 g | C(C)(C)(C)OC(NC1=CC(=NC=C1)Cl)=O | C10H13ClN2O2
reactant | methyl iodide | 24 mmol, 3.41 g | CI | CH3I
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-Chloro-3-methylpyridin-4-yl)carbamic acid tert-butyl ester | 12 mmol, 2.93 g | C(C)(C)(C)OC(NC1=C(C(=NC=C1)Cl)C)=O | C11H15ClN2O2
